US03988326
The procedure of Example 1 was repeated using 1.9 g of lithium α-phenoxypropionate and 2.14 g of 7-amino-3-methyl-3-cephem-4-carboxylic acid. 7-(α-Phenoxypropionamido)-3-methyl-3-cephem-4-carboxylic acid was obtained as a colorless crystalline product in a yield of 3.22 g (95%, mp. 145° C (dec.). This product showed the infra-red and ultra-violet absorption spectra which were entirely coincident with those of the authentic sample.

reactant | lithium α-phenoxypropionate | 1.9 g | O(C1=CC=CC=C1)C(C(=O)[O-])C.[Li+]
reactant | 7-amino-3-methyl-3-cephem-4-carboxylic acid | 2.14 g | NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C8H10N2O3S
product | 7-(α-Phenoxypropionamido)-3-methyl-3-cephem-4-carboxylic acid | O(C1=CC=CC=C1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O)C | C17H18N2O5S
